US08349886B2
5-[4-(cyclopropylsulfonyl)-1H-indazol-1-yl]-1-[5-(1,2-dihydroxy-2-methylpropyl)pyridin-2-yl]-6-(tetrahydro-2H-pyran-4-yl)hexane-1,4-dione
A mixture of 4-[4-(cyclopropylsulfonyl)-1H-indazol-1-yl]-5-(tetrahydro-2H-pyran-4-yl)pent-1-en-3-one (1.80 g), 5-(1,2-dihydroxy-2-methylpropyl)pyridine-2-carbaldehyde (0.99 g), 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazol-3-ium chloride (0.12 g), triethylamine (0.26 ml), tetrahydrofuran (10 mL) and ethanol (10 mL) was stirred with heating under reflux for 2 hr. The reaction mixture was concentrated, and the residue was subjected to basic silica gel column chromatography to give the title compound (1.90 g, yield 71%) as a yellow amorphous solid from the fraction eluted with ethyl acetate. MS: 584 (MH+).

reactant | 4-[4-(cyclopropylsulfonyl)-1H-indazol-1-yl]-5-(tetrahydro-2H-pyran-4-yl)pent-1-en-3-one | 1.80 g | C1(CC1)S(=O)(=O)C1=C2C=NN(C2=CC=C1)C(C(C=C)=O)CC1CCOCC1 | C20H24N2O4S
reactant | 5-(1,2-dihydroxy-2-methylpropyl)pyridine-2-carbaldehyde | 0.99 g | OC(C(C)(C)O)C=1C=CC(=NC1)C=O | C10H13NO3
reactant | triethylamine | 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazol-3-ium chloride | 0.12 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-[4-(cyclopropylsulfonyl)-1H-indazol-1-yl]-1-[5-(1,2-dihydroxy-2-methylpropyl)pyridin-2-yl]-6-(tetrahydro-2H-pyran-4-yl)hexane-1,4-dione | 1.90 g, yield 71% | C1(CC1)S(=O)(=O)C1=C2C=NN(C2=CC=C1)C(C(CCC(=O)C1=NC=C(C=C1)C(C(C)(C)O)O)=O)CC1CCOCC1 | C30H37N3O7S
